US08609656B2
1-[4-(6-Amino-8-methoxypurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (Table 2, Compound No. 14)
In 2 mL of methanol, 25 mg (0.04 mmol) of 1-[4-(6-amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea was dissolved, and 5.6 mg (0.10 mmol) of sodium methylate was added thereto, and the mixture solution was refluxed with stirring for 14 hours. The reaction solution was concentrated and purified by a silica gel column (dichloromethane:methanol=9:1) to obtain 7 mg (34%) of a target product as a white solid.

reactant | 1-[4-(6-amino-8-iodopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.04 mmol, 25 mg | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)I | C19H12ClF3IN7O
reactant | sodium methylate | 0.10 mmol, 5.6 mg | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 1-[4-(6-Amino-8-methoxypurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 7 mg, 34% | NC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)OC | C20H15ClF3N7O2
